Vac:Vin pow gnd V=1 f=1k
R:R1 pow out R=1k
C:C1 out gnd C=$C
.ac
  type="log" start=1 stop=1M points=1k
  .sweep param="C" type="log" start=10n stop=200n points=3
